US07456289B2
4-Methoxy-2-methylpyridine (0.123 g, 1 mmol) and bromoacetone (0.16 mL, 1 mmol) were heated at 95° C. under N2 for 2 h. 1,8-Diazabicyclo-[5.4.0]-undec-7-ene (0.34 mL, 2.2 mmol) in benzene (10 mL) was added. The mixture was then refluxed under N2 for 1 h, poured into ice water, and then extracted with EtOAc. The combined organic layers were washed with water and dried. After the solvent was removed in vacuo, the residue was purified on a silica gel column eluting with EtOAc:Hexane (1:9) and EtOAc to give 7-methoxy-2-methylindolizine (0.050 g, 31%).

reactant | 4-Methoxy-2-methylpyridine | 1 mmol, 0.123 g | COC1=CC(=NC=C1)C | C7H9NO
reactant | bromoacetone | 1 mmol, 0.16 mL | BrCC(C)=O | C3H5BrO
reactant | 1,8-Diazabicyclo-[5.4.0]-undec-7-ene | 2.2 mmol, 0.34 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 7-methoxy-2-methylindolizine | 0.050 g, 31% | COC=1C=CN2C=C(C=C2C1)C | C10H11NO
